US09422240B2
A mixture of 2-iodo-5-nitrobenzotrifluoride (4.62 g), cyclobutylboronic acid (4.15 g), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (4.15 g), cesium carbonate (22.6 g), toluene (67.0 mL) and water (33.0 mL) was stirred in a sealed tube at 80° C. for 6 hours. After cooling the reaction mixture to room temperature, extraction was conducted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate and after removing the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-94:6) to give 1-cyclobutyl-4-nitro-2-(trifluoromethyl)benzene as a pale yellow oil (1.69 g).

reactant | 2-iodo-5-nitrobenzotrifluoride | 4.62 g | IC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F3INO2
reactant | cyclobutylboronic acid | 4.15 g | C1(CCC1)B(O)O | C4H9BO2
reactant | cesium carbonate | 22.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 67.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 4.15 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 33.0 mL | O | H2O
product | 1-cyclobutyl-4-nitro-2-(trifluoromethyl)benzene | 1.69 g | C1(CCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H10F3NO2
